US08871802B2
Preparation of 2-methylthio-naphtho[2,3-b]furan-4,9-dione
To the solution of 0.7 gram (2.5 mmoles) of 2-bromo-naphtho[2,3-b]furan-4,9-dione in 20 mL of tetrahydrofuran at room temperature, 0.4 grams (5.0 mmoles) of MeSNa in 5 mL of water was added dropwise over 1 minute. The mixture was further stirred for 2 hours at room temperature, and then evaporated to remove tetrahydrofuran. To the residue, 20 mL of 1N hydrochloric acid was added, and the resulting mixture was filtered. The solid was washed with water, and then crystallized in ethanol/water. Pure crystal product was filtered and dried under vacuum. 0.55 grams of product (yield 90%) was obtained and characterized by 1H NMR and mass spectrum. 1H NMR (in CDCl3) δ 2.66 (s, 3H), 6.79 (s, 1H), 7.75-7.79 (m, 2H), 8.18-8.25 (m, 2H). Mass (M+H) is 245.

reactant | 2-bromo-naphtho[2,3-b]furan-4,9-dione | 2.5 mmoles, 0.7 gram | BrC1=CC2=C(O1)C(C1=CC=CC=C1C2=O)=O | C12H5BrO3
reactant | MeSNa | 5.0 mmoles, 0.4 grams | C(CS(=O)(=O)[O-])S.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-methylthio-naphtho[2,3-b]furan-4,9-dione | 0.55 grams, yield 90% | CSC1=CC2=C(O1)C(C1=CC=CC=C1C2=O)=O | C13H8O3S
